US03963713
To a mixture of 0.2 ml (0.005 mole) of fuming nitric acid and 1.5 grams (0.01 mole) of trifluoromethanesulfonic acid in 15 ml. anhydrous methylene chloride, after allowing the resulting mixture to be stirred for 1 hour at 25°C., there is added dropwise maintaining the temperature at -30°C., 0.542 grams (0.002 mole) of 5,7-dihydro-5,5,7,7-tetramethyl-3-phenylfuro [3,4-e]-as-triazine-4-oxide in 15 ml. of anhydrous methylene chloride. The resulting heterogeneous mixture is stirred at 25°C. for 72 hours, poured onto ice, and neutralized with solid sodium bicarbonate. The organic layer is removed and the aqueous phase extracted several times with methylene chloride. The combined organic layers are washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate and evaporated to give a white solid. The resulting solid is recrystallized from methylene chloride/hexane to give 5,7-dihydro-5,5,7,7-tetramethyl-3-(m-nitrophenyl)-furo[3,4-e]-as-triazine-4-oxide, m.p. 202°-204°C.

reactant | nitric acid | 0.005 mole, 0.2 ml | [N+](=O)(O)[O-] | HNO3
reactant | trifluoromethanesulfonic acid | 0.01 mole, 1.5 grams | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | 5,7-dihydro-5,5,7,7-tetramethyl-3-phenylfuro [3,4-e]-as-triazine-4-oxide | 0.002 mole, 0.542 grams | CC1(OC(C2=C1[N+](=C(N=N2)C2=CC=CC=C2)[O-])(C)C)C | C15H17N3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5,7-dihydro-5,5,7,7-tetramethyl-3-(m-nitrophenyl)-furo[3,4-e]-as-triazine-4-oxide | CC1(OC(C2=C1[N+](=C(N=N2)C2=CC(=CC=C2)[N+](=O)[O-])[O-])(C)C)C | C15H16N4O4
